US04179564
(d) 1-Ethyl-5,6-dihydro-4-hydroxybenzo[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin-11(1H)-one
12.4 g. of 1-ethyl-4-hydroxy-5-(2-phenylethyl)-1H-pyrazolo[3,4-b]pyridine-6-carboxylic acid (0.04 mol.) and 150 g. of polyphosphoric acid are heated at 200°-210° (bath temperature) with stirring for 30 minutes. After the mixture has cooled to room temperature 300 ml. of water are added slowly with stirring until the polyphosphoric acid is completely dissolved. The remaining 1-ethyl-5,6-dihydro-4-hydroxybenzo[5,6]cyclohepta[1,2-b]pyrazolo[4,3-b]pyridin-11(1H)-one is dissolved in chloroform, the extract is washed twice with water, dried with Na2SO4 and then evaporated in vacuo, yield: 9 g. (77%); m.p. 190°-192°. Recrystallization from ethanol raises the m.p. to 195°-197°.

reactant | 1-ethyl-4-hydroxy-5-(2-phenylethyl)-1H-pyrazolo[3,4-b]pyridine-6-carboxylic acid | 0.04 mol | C(C)N1N=CC=2C1=NC(=C(C2O)CCC2=CC=CC=C2)C(=O)O | C17H17N3O3
reactant | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-Ethyl-5,6-dihydro-4-hydroxybenzo[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin-11(1H)-one | C(C)N1N=CC=2C(=C3C(=NC21)C(C2=C(CC3)C=CC=C2)=O)O | C17H15N3O2
